US07662975B2
Trifluoro-methanesulfonic acid 3-(2,4-dimethoxy-phenyl)-4-(2-methoxy-ethyl)-2-oxo-2H-chromen-7-yl ester (450 mg, 0.92 mol) was dissolved in CH2Cl2 (10 mL) at room temperature in a 200 ml round bottom flask. The reaction mixture was then cooled to −30° C., and BBr3 (1.8 ml) was added and the reaction mixture stirred at room temperature for 4 h. The reaction mixture was cooled to 0° C. and water (40 mL) was added, followed by ethyl acetate (50 mL). The reaction mixture was then poured into a separation funnel. The organic layer was separated and washed with water (1×40 ml) and brine (1×30 ml). The organic layer was dried over sodium sulfate and concentrated. The product was purified on silica gel eluted with 50%-100% ethyl acetate in hexanes to yield trifluoro-methanesulfonic acid 3-(2,4-dihydroxy-phenyl)-4-(2-hydroxy-ethyl)-2-oxo-2H-chromen-7-yl ester as a light yellow foam

reactant | Trifluoro-methanesulfonic acid 3-(2,4-dimethoxy-phenyl)-4-(2-methoxy-ethyl)-2-oxo-2H-chromen-7-yl ester | 0.92 mol, 450 mg | COC1=C(C=CC(=C1)OC)C=1C(OC2=CC(=CC=C2C1CCOC)OS(=O)(=O)C(F)(F)F)=O | C21H19F3O8S
reactant | BBr3 | 1.8 ml | B(Br)(Br)Br | BBr3
reactant | water | 40 mL | O | H2O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 3-(2,4-dihydroxy-phenyl)-4-(2-hydroxy-ethyl)-2-oxo-2H-chromen-7-yl ester | OC1=C(C=CC(=C1)O)C=1C(OC2=CC(=CC=C2C1CCO)OS(=O)(=O)C(F)(F)F)=O | C18H13F3O8S
